US09127016B2
Synthesis of (2-Benzylidene-3-cyclohexylaminoindan-1-ol) 18
2-Benzylidene-3-cyclohexylamino-indan-1-one (3, BCI) (317 mg, 1 mmol) was dissolved in dry THF (15 mL) under nitrogen. Solution of LiAlH4 (76 mg, 2 mmol) in dry THF (10 mL) was added dropwise at 0° C. Solution was stirred overnight and quenched with 100 μL of water followed by 100 μL of 15% NaOH followed by 300 μL of water. Precipitate was filtered off and washed with ether (3×30 mL). Combined liquid was evaporated in vacuum, and residue was separated by column chromatography on silica (DCM-MeOH—NH4OH 100:1:0.5).

reactant | 2-Benzylidene-3-cyclohexylamino-indan-1-one | 1 mmol, 317 mg | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1NC1CCCCC1)=O | C22H23NO
reactant | LiAlH4 | 2 mmol, 76 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Benzylidene-3-cyclohexylaminoindan-1-ol | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1NC1CCCCC1)O | C22H25NO
